US07208629B2
{4′-[(Cyclopropylmethylamino)carbonyl]methyl-1,1′-biphenyl-3-yl}carboxylic acid (26 mg, 0.084 mmol, PyBOP (44 mg, 0.084 mmol) and cyclopropylmethylamine (7 mg, 0.1 mmol) were mixed in THF (2 ml) and DIPEA (44 μl) added, the reaction was stirred at room temperature for 18 h. The solvent was evaporated under vacuum and reaction was partitioned between DCM (2 ml) and aqueous sodium carbonate solution (1M, 2 ml). The organic fraction was purified on a silica SPE (5 g) eluting with DCM, chloroform, diethyl ether, ethyl acetate, acetonitrile, acetone, ethanol, methanol and DCM/ethanol/ammonia (20:8:1 then 15:8:1). Product fractions combined and evaporated to dryness to give the N3-cyclopropylmethyl-N4′-cyclopropylmethyl-6-methyl-1,1′-biphenyl-3,4′-dicarboxamide. NMR: δH [2H6]-DMSO 8.63, (1H, t), 8.57, (1H, t), 7.94, (2H, d), 7.78, (1H, dd), 7.73, (1H, d), 7.48, (2H, d), 7.40, (1H, d), 3.18–3.10, (4H, m), 2.27, (3H, s), 1.02, (2H, m), 0.42, (4H, m), 0.22, (4H, m). LCMS: retention time 3.32 min, MH+363.

reactant | {4′-[(Cyclopropylmethylamino)carbonyl]methyl-1,1′-biphenyl-3-yl}carboxylic acid | C1(CC1)CNC(=O)CC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)O | C19H19NO3
reactant | PyBOP | 0.084 mmol, 44 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | cyclopropylmethylamine | 0.1 mmol, 7 mg | C1(CC1)CN | C4H9N
reactant | DIPEA | 44 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | THF | 2 ml | C1CCOC1 | C4H8O
product | N3-cyclopropylmethyl-N4′-cyclopropylmethyl-6-methyl-1,1′-biphenyl-3,4′-dicarboxamide | C1(CC1)CNC(=O)C=1C=C(C(=CC1)C)C1=CC=C(C=C1)C(=O)NCC1CC1 | C23H26N2O2
